US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 3-(4-chlorophenoxy)benzaldehyde was carried out according to General Synthetic Method 7. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[[3-(4-chlorophenoxy)phenyl]methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 3-(4-chlorophenoxy)benzaldehyde | ClC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9ClO2
product | 6-[4-[[3-(4-chlorophenoxy)phenyl]methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC1=CC=C(OC=2C=C(C=CC2)CN2CCN(CC2)C=2C=CC=3N(N2)C(=NN3)C(F)(F)F)C=C1 | C23H20ClF3N6O
